US08877780B2
Lithium hydroxide (0.53 g, 22 mmol) was added to a solution of hexanedioic acid tert-butyl ester methyl ester (4.8 g, 22 mmol) in 3:1 methanol-water (80 mL), and the resulting mixture was stirred at room temperature for 16 hours. The mixture was evaporated under vacuum. The residue was partitioned between water (60 mL) and methylene chloride (75 mL), and the aqueous phase was washed with methylene chloride (3×75 mL) and evaporated, providing 4.0 g of hexanedioic acid mono-tert-butyl ester, lithium salt; 1H NMR (D2O) δ 1.45 (s, 9H), 1.54-1.58 (m, 4H), 2.15-2.20 (m, 2H), 2.25-2.34 (m, 2H).

reactant | Lithium hydroxide | 22 mmol, 0.53 g | [OH-].[Li+]
reactant | hexanedioic acid tert-butyl ester methyl ester | 22 mmol, 4.8 g | COC(CCCCC(=O)OC(C)(C)C)=O | C11H20O4
solvent | methanol water | 80 mL | CO.O
product | hexanedioic acid mono-tert-butyl ester | 4.0 g | C(C)(C)(C)OC(CCCCC(=O)O)=O | C10H18O4
